US06780878B2
B. 4-(4-morpholinyl)benzoic Acid
A solution of 4-(4-morpholinyl)benzonitrile (930 mg, 5.00 mmol) in 1:1 dioxane:water (20 mL) was treated with potassium hydroxide (1.12 g. 20 mmol). The mixture was heated at reflux for 96 h, concentrated, and the residue was dissolved in water. Upon acidification (pH˜2-3), a white precipitate resulted which was collected by filtration yielding 1.21 g (99%) of the title compound.

reactant | 4-(4-morpholinyl)benzonitrile | 5.00 mmol, 930 mg | N1(CCOCC1)C1=CC=C(C#N)C=C1 | C11H12N2O
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | potassium hydroxide | 20 mmol, 1.12 g | [OH-].[K+]
reactant | water | 20 mL | O | H2O
product | 4-(4-morpholinyl)benzoic Acid | 1.21 g, 99% | N1(CCOCC1)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
